US05567716
Preparation of tobramycin trans-traumatate
11.4 g of trans-traumatic traumatic acid (50 mmol) are suspended in 200 ml of cool water at 4° C., A solution of 14.3 g of tobramycin sulfate (20mmol) in 200 ml of water is eluted through a column cooled to 4° C. containing 150 ml of [OH--] Dowex 1×8 resin. The eluate free from sulfate is collected into the suspension of traumatic acid kept under continuous stirring at 4° C. The resulting solution is frozen and lyophilized.

reactant | traumatic acid | 50 mmol, 11.4 g | C(\C=C\CCCCCCCCC(=O)O)(=O)O | C12H20O4
reactant | tobramycin sulfate | 20mmol, 14.3 g | C1[C@@H]([C@H]([C@@H]([C@H]([C@@H]1N)O[C@@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CO)O)N)O)O)O[C@@H]3[C@@H](C[C@@H]([C@H](O3)CN)O)N)N.OS(=O)(=O)O
solvent | water | 200 ml | O | H2O
solvent | water | 200 ml | O | H2O
product | tobramycin trans-traumatate | C1[C@@H]([C@H]([C@@H]([C@H]([C@@H]1N)O[C@@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CO)O)N)O)O)O[C@@H]3[C@@H](C[C@@H]([C@H](O3)CN)O)N)N.C(\C=C\CCCCCCCCC(=O)[O-])(=O)[O-] | InChI=1S/C18H37N5O9.C12H20O4/c19-3-9-8(25)2-7(22)17(29-9)31-15-5(20)1-6(21)16(14(15)28)32-18-13(27)11(23)12(26)10(4-24)30-18;13-11(14)9-7-5-3-1-2-4-6-8-10-12(15)16/h5-18,24-28H,1-4,19-23H2;7,9H,1-6,8,10H2,(H,13,14)(H,15,16)/p-2/b;9-7+/t5-,6+,7+,8-,9+,10+,11-,12+,13+,14-,15+,16-,17+,18+;/m0./s1
